US04186151
228.3 g (1.0 mole) of 2-hydroxy-4-methoxy-benzophenone, 146.3 (1.3 moles, 40% aqueous solution) of dimethylamine, 105.4 g (1.3 moles, 37% aqueous solution) of formalin and 1200 ml of methanol was put into a flask, dissolved and heated under stirring at reflux temperature (68° to 70° C.) for 6 hours. When solvent was vacuum distilled off, 285 gr of 5-dimethylaminomethyl-2-hydroxy-4-methoxybenzophenone was obtained. The product had m.p. 69° C., infrared absorption at 1620 (Carbonyl), 2760 and 2800 (N--CH group) wave numbers, and neutralization equivalent (as nitrogen) 4.89% (Calculated 4.91%). The NMR spectrum provided evidence for the 5-position of the dimethylaminomethyl group.

reactant | 2-hydroxy-4-methoxy-benzophenone | 1.0 mole, 228.3 g | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)OC | C14H12O3
reactant | dimethylamine | 1.3 moles | CNC | C2H7N
reactant | formalin | 1.3 moles, 105.4 g | C=O | CH2O
solvent | methanol | 1200 ml | CO | CH4O
product | 5-dimethylaminomethyl-2-hydroxy-4-methoxybenzophenone | 285 gr | CN(C)CC=1C(=CC(=C(C(=O)C2=CC=CC=C2)C1)O)OC | C17H19NO3
